US08003569B2
paraquat-dichloride;
chlorotoluron, diuron, isoproturon or linuron;

reactant | chlorotoluron | CC=1C=CC(=CC1Cl)NC(=O)N(C)C | C10H13ClN2O
reactant | diuron | CN(C)C(=O)NC=1C=CC(=C(C1)Cl)Cl | C9H10Cl2N2O
reactant | isoproturon | CC(C)C=1C=CC(=CC1)NC(=O)N(C)C | C12H18N2O
reactant | linuron | CN(C(=O)NC=1C=CC(=C(C1)Cl)Cl)OC | C9H10Cl2N2O2
product | paraquat-dichloride | C[N+]1=CC=C(C=C1)C2=CC=[N+](C=C2)C.[Cl-].[Cl-] | InChI=1S/C12H14N2.2ClH/c1-13-7-3-11(4-8-13)12-5-9-14(2)10-6-12;;/h3-10H,1-2H3;2*1H/q+2;;/p-2
